US04659721
(b) Preparation of 2-Hydroxy-3-[3-(1-piperidylmethyl)-benzyloxy]propylamine
8.60 g (0.021 mol) of 2-[2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propyl]-1H-isoindole-1,3-dione and 3.3 ml of hydrazine hydrate (80%) are boiled in 80 ml of ethanol for 3 hours. The residue left after concentration of the mixture by evaporation is taken up in 50 ml of water; 8 ml of conc. hydrochloric acid are added and the reaction mixture is filtered. The filtrate is adjusted to pH 12 with conc. sodium hydroxide solution and extracted with 3×40 ml methylene chloride. The organic phase is dehydrated with Na2SO4 and concentrated by evaporation under vacuum. The residue is distilled in a high vacuum. 4.44 g (76%) of a colourless oil, boiling point 145°-155° C./1×10-2 mbar, are obtained.

reactant | 2-[2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propyl]-1H-isoindole-1,3-dione | 0.021 mol, 8.60 g | OC(CN1C(C2=CC=CC=C2C1=O)=O)COCC1=CC(=CC=C1)CN1CCCCC1 | C24H28N2O4
reactant | hydrazine hydrate | 3.3 ml | O.NN
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-[3-(1-piperidylmethyl)-benzyloxy]propylamine | 4.44 g, 76% | OC(CN)COCC1=CC(=CC=C1)CN1CCCCC1 | C16H26N2O2
